US08791142B2
Step 1) tert-butyl N-(4-cyanopyridin-2-yl)-beta-alaninate
A solution of 2-chloro-4-cyanopyridine (2.00 g, 14.4 mmol), beta-alanine tert-butyl ester hydrochloride (3.14 g, 17.3 mmol) and DIEA (9.88 mL, 57.7 mmol) in anhydrous DMSO (30 mL) was heated at 150° C. for 3 days. The reaction mixture was diluted with Et2O (100 mL) and washed with water (3×60 mL) and brine (60 mL). The organic layer was dried (MgSO4) and the solvents were removed under reduced pressure. Purification by flash chromatography (silica, EtOAc/cHex) gave the title compound as a brown oil. HPLC (Method A), Rt: 2.8 min (purity: 92.2%). UPLC/MS, M+(ESI): 248.1, M−(ESI): 246.2. 1H NMR (DMSO-d6, 300 MHz) δ 8.16 (dd, J=5.2, 0.7 Hz, 1H), 7.16 (t, J=5.7 Hz, 1H), 6.83 (m, 1H), 6.79 (dd, J=5.2, 1.4 Hz, 1H), 3.46 (td, J=6.8, 5.7 Hz, 2H), 2.46 (t, J=6.8 Hz, 2H), 1.38 (s, 9H).

reactant | 2-chloro-4-cyanopyridine | 14.4 mmol, 2.00 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | beta-alanine tert-butyl ester hydrochloride | 17.3 mmol, 3.14 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | DIEA | 57.7 mmol, 9.88 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | tert-butyl N-(4-cyanopyridin-2-yl)-beta-alaninate | C(#N)C1=CC(=NC=C1)NCCC(=O)OC(C)(C)C | C13H17N3O2
